Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
feeling sick  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Chief Complaint: feeling sick  
.  
History of Present Illness:  
___ y/o M PMH DM, HTN who p/w with decreased po appetite of 3 
days duration. Patient states 1.5 weeks ago he had recurrent 
diarrhea for three days and was started on immodium by his 
nursing home. He then stopped having BM since last ___ and 
described the sensation of fullness. No vomiting, nausea or 
abdominal pain. Due to fullness and generally feeling unwell he 
stopped eating this ___. Otherwise patient was feeling his 
usual state of health. He denies fever, chills, chest pain, 
shortness of breath.  
.  
In the ED, initial VS were: 98, BP 180/97, HR 78, RR 16, SaO2 
100%.  
Patient was given 2 L NS, 30 mg kayexalate (k 5.5 - no peaked 
T), 12 SC insulin humulin, 8 SC regular (BS 559 - no gap). 
Vitals on transfer were 97.5 74 171/91 14 96% RA.  
.  
On the floor, patient is comfortable. Since the dose of 
kayexalate he has been having diarrhea. He was able to eat a 
___ sandwich (first thing since ___. He feels much 
better than presentation and has no compliants.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. No recent change in bladder habits. 
No dysuria. Denied arthralgias or myalgias.  
.  

 
Past Medical History:
Diabetes melitus  
hypertension  
ex lap in ___ in ___, reportedly nothing found, ? 
pancreatic abscess  
decreased hearing, reportedly was told he needs a hearing aid  
but did not get one  

 
Social History:
___
Family History:
Cancer - unable to be specific  
 
Physical Exam:
Vitals: T: 97 BP: 189/112 (recheck 164/80) P: 79 R: 18 O2: 100 
RA  
___: 473  
General: Alert, oriented, no acute distress, oriented name, 
hospital and month  
HEENT: Sclera anicteric, dryMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: moderately firm, non-tender, moderately distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
.  

 
Pertinent Results:
Admit Labs:
___ 05:25PM BLOOD WBC-13.4*# RBC-5.25 Hgb-16.2 Hct-49.3 
MCV-94 MCH-30.8 MCHC-32.8 RDW-14.4 Plt ___
___ 05:25PM BLOOD Plt ___
___ 06:40AM BLOOD ___ PTT-25.7 ___
___ 05:25PM BLOOD Glucose-599* UreaN-56* Creat-2.1* Na-130* 
K-6.0* Cl-96 HCO3-24 AnGap-16
___ 05:25PM BLOOD ALT-21 AST-15 LD(LDH)-274* CK(CPK)-102 
AlkPhos-75 TotBili-0.7
___ 05:25PM BLOOD Lipase-100*
___ 06:05AM BLOOD Lipase-386*
___ 05:25PM BLOOD CK-MB-2 cTropnT-0.01
___ 02:20AM BLOOD CK-MB-NotDone cTropnT-0.02*
___ 06:05AM BLOOD CK-MB-NotDone cTropnT-0.02*
___ 06:05AM BLOOD Calcium-9.0 Phos-4.2 Mg-2.3
___ 05:25PM BLOOD Glucose-532*
___ 07:20PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:20PM URINE Blood-LG Nitrite-NEG Protein-150 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 07:20PM URINE ___ Bacteri-OCC Yeast-NONE 
Epi-0
.
Discharge Labs:
___ 06:40AM BLOOD WBC-13.9* RBC-5.07 Hgb-15.4 Hct-47.6 
MCV-94 MCH-30.4 MCHC-32.4 RDW-14.3 Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-283* UreaN-53* Creat-1.6* Na-136 
K-4.9 Cl-104 HCO3-18* AnGap-19
___ 06:40AM BLOOD ALT-18 AST-15 LD(LDH)-351* AlkPhos-67 
TotBili-0.7
___ 06:40AM BLOOD Lipase-77*
.
CHEST (PORTABLE AP) ___:
AP upright portable chest radiograph is obtained. The lungs are 
clear bilaterally demonstrating no evidence of pneumonia or CHF. 
 
Cardiomediastinal silhouette appears grossly unremarkable. There 
is no 
pneumothorax or large pleural effusion. Osseous structures 
appear intact.   
IMPRESSION: No acute findings. 
.
ABDOMEN U.S. (COMPLETE STUDY) ___:
The liver is homogeneous in echotexture without focal mass 
identified. The 
main portal vein is patent.   
Intrahepatic bile ducts are within normal limits. Common duct 
measures 3 mm. Gallbladder is unremarkable in appearance, 
without gallbladder wall 
thickening, pericholecystic fluid, or gallstones.   
The pancreas is grossly unremarkable in appearance. The spleen 
is not 
enlarged measuring 7.2 cm. The left kidney measures 10.6 cm. No 
hydronephrosis. The right kidney measures 11.8 cm. There is no 
hydronephrosis. A wedge- shaped area of increased echogenicity 
is noted along the upper pole, along the cortical margin, and 
likely represents a small parenchymal scar, chronic in etiology. 
  
IMPRESSION:   
1. Grossly unremarkable ultrasound of the abdomen. 

 
Brief Hospital Course:
___ y/o gentleman with Type 2 diabetes mellitus, hypertension, 
presented with decreased appetite of 3 days duration and 
constipation for 7 days.  Now found to be in ___, elevated WBC 
and elevated lipase.
.  
# Hypertensive Urgency: BP went to 220/110.  Lisinopril was 
discontinued due to ___ and elevated K.  He recieved hydral IV 
10 mg three times and was started on nifedipine 10 mg three 
times a day.
.
# Decreased po appetite/elevated WBC/elevated lipase:  Patient 
might have had a transient pancreatitis of unclear etiology.  
Lipase peaked and trended down prior to discharge.  Patient was 
without ansy signs/symptoms of infection with normal exam.  
Decreased food intake might be to constipation from immodium.  
Kayexalate helped with bowel movement. He is currently eating 
well. Normal abdominal US is reassuring.  Will need repeat labs 
at ___.   
.
# Acute kidney injury: Trending towards his baseline.  Secondary 
to dehydration/poor oral intake.  Eating well.  His lisinopril 
and Ibuprofen were stopped.  
.  
# Hyperkalemia: Due to renal failure and lisinopril. Received 
kayexalate in ED.  Now normalized.
.  
# Hyperglycemia: No gap or urine ketones to suggest DKA.  He 
recieved ? spinal steroid injection recently.  He was continued 
on home lantus with ISS.  Given that his renal function was 
improving, he was discharged on home dose glyburide.
.  
# Thrombocytopenia: Unclear etiology.  Per nursing record no 
Heparin SC to suggest HIT. Remained stable.  Needs out patient 
follow up.
.  
# Disposition:  We appreciated physical therapist evaluation.  
It was felt that he may benefit from short term stay at Rehab.  
However patient wanted to go to his assisted living with ___.
 
Medications on Admission:
confirmed with pharmacy at ___
ASA 81 daily
Citalopram 40 mg daily
Doxazosin 2 mg daily
Folic acid 1 mg daily
Gabapentin 300 mg BID
Glyburide 5 mg daily
Lisinopril 30 mg daily
Simvastatin 20 mg daily
B12 100 mcg daily
Vit D 800 units daily
Lantus 10 units ? prn
Also on sliding scale Novolin
Tylenol ___ mg prn  
Hydrocortisone 1% cream prn  
Ibuprofen 600mg 1 tablet q6hour for pain  
Loperamide 2mg capsule 1 capsule BID prn  
Milk Magnesia prn  
.  

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): Please hold for diarrhea.  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
5. Doxazosin 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
8. Glyburide 5 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. Cyanocobalamin 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Vitamin D 400 unit Tablet Sig: Two (2) Tablet PO once a day. 
 
12. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
13. Nifedipine 10 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).
Disp:*90 Capsule(s)* Refills:*2*
14. Lantus 100 unit/mL Solution Sig: Ten (10) units Subcutaneous 
QAM: Please ask your providers when it is safe to discontinue 
this medication.  
15. Finger sticks gluocse monitoring
Please check four times a day and forward the results to 
covering physician.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pancreatitis of unclear etiology, resolved
Constipation
Acute Kidney Injury with hyperkalemia
Hypertensive Urgency

 
Discharge Condition:
Asymptomatic, afebrile and hemodynamically stable.
Alert and oriented x 3
Ambulating without difficulty

 
Discharge Instructions:
Dear ___,

You were seen at ___ with 
constipation and decreased appetite.  You might have had 
pancreatitis which resolved prior to discharge.  You were able 
to eat without difficulty.  You were also found to have acute 
kidney injury which resolved with hydration and holding a 
medication called lisinopril.  You also had increased potassium 
which is most likely due to the kidney injury and lisinopril. We 
have switched your blood pressure medication to nifedipine.

Physical therapist evaluated you and thought that you may 
benefit from stay at Rehab facility.  After discussing this with 
the team, you wanted to go the current assisted living facility 
with home ___.  

The following changes were made to your medications:
STOP Lisinopril
START Nifedipine
STOP Ibuprofen
STOP Loperamide
 
Followup Instructions:
___